US04540703
2-(1-Methyl-1,2,3,4-tetrazol-5-yl)thio-acetic acid (45 mmole) is dissolved in tetrahydrofuran (50 ml) and thereto is added DBU (50 mmole). To the mixture is added dropwise with stirring isobutyl chloroformate (50 mmole) under ice-cooling and the mixture is stirred at room temperature for 30 minutes. To the mixture is added dropwise N-ethyl-cyclohexylamine under ice-cooling, and the mixture is further stirred at room temperature for 2 hours. After distilling off the solvent under reduced pressure, the resulting residue is extracted with chloroform. The chloroform layer is washed with 5% aqueous hydrochloric acid, an aqueous saturated sodium hydrogen carbonate solution and an aqueous saturated sodium chloride solution and dried over anhydrous sodium sulfate. Chloroform is distilled off and the residue is subjected to column chromatograpy (Wakogel C-200, eluting solvent, benzene:chloroform=4:1, V/V) to isolate N-ethyl-N-cyclohexyl-2-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-acetamide (yield: 52%) which is recrystallized from ether-petroleum ether, white prisms, m.p. 69°-71° C.

reactant | 2-(1-Methyl-1,2,3,4-tetrazol-5-yl)thio-acetic acid | 45 mmole | CN1N=NN=C1CC(=S)O | C4H6N4OS
reactant | DBU | 50 mmole | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | isobutyl chloroformate | 50 mmole | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-ethyl-cyclohexylamine | C(C)NC1CCCCC1 | C8H17N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-ethyl-N-cyclohexyl-2-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-acetamide | yield: 52% | C(C)N(C(CC1=NN=NN1C)=S)C1CCCCC1 | C12H21N5S
